US05389651
In the same manner, the sodium salt of 2-[4-(1-methylpropoxy)phenoxy]ethanol and 2-chloropyridine are reacted together to give 2-{2-[4-(1-methylpropoxy)phenoxy]ethoxy}pyridine, MS m/e 288} (M+).

reactant | sodium | [Na] | Na
reactant | 2-[4-(1-methylpropoxy)phenoxy]ethanol | CC(CC)OC1=CC=C(OCCO)C=C1 | C12H18O3
reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
product | 2-{2-[4-(1-methylpropoxy)phenoxy]ethoxy}pyridine | CC(CC)OC1=CC=C(OCCOC2=NC=CC=C2)C=C1 | C17H21NO3
